US06291713B1
50 mg of a catalyst of 5% palladium on barium sulfate were added at once to a stirred solution of 500 mg (2.23 mmol) 3-tert-butyl-2,2-dimethylnon-5-in-3-ol in 5 ml pyridine. The mixture obtained was degassed three times, exposed to a hydrogen atmosphere and stirred overnight. Subsequently, it was diluted with 100 ml pentane and filtered over silica gel. The silica gel was washed with 100 ml Et2O. The combined organic phases were washed with a copper sulfate solution (5×100 ml), with H2O (100 ml) and with salt solution (50 ml), dried and concentrated under reduced pressure. There were obtained 503 mg (99%) (Z)-3-tert-butyl-2,2-dimethylnon-5-en-3-ol

reactant | 3-tert-butyl-2,2-dimethylnon-5-in-3-ol | 2.23 mmol, 500 mg | C(C)(C)(C)C(C(C)(C)C)(CC#CCCC)O | C15H28O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | palladium on barium sulfate | [Pd] | Pd
product | (Z)-3-tert-butyl-2,2-dimethylnon-5-en-3-ol | 503 mg, 99% | C(C)(C)(C)C(C(C)(C)C)(C\C=C/CCC)O | C15H30O
